US09108973B2
Synthesis of (S)-1-(3-(4-amino-5-((3,5-dimethoxyphenyl)ethynyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)pyrrolidin-1-yl)-4-hydroxy-4-methylpent-2-yn-1-one (compound of Example 47)
In accordance with Example 4 (Step 1), except that (S)-5-((3,5-dimethoxyphenyl)ethynyl)-7-(pyrrolidin-3-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine (i.e., the intermediate obtained in Example 38 (Step 4)) and 4-hydroxy-4-methylpent-2-ynoic acid were used, the title compound was obtained as a colorless, amorphous substance. Table 1 shows the physical properties thereof.

reactant | (S)-5-((3,5-dimethoxyphenyl)ethynyl)-7-(pyrrolidin-3-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | COC=1C=C(C=C(C1)OC)C#CC1=CN(C=2N=CN=C(C21)N)[C@@H]2CNCC2 | C20H21N5O2
reactant | 4-hydroxy-4-methylpent-2-ynoic acid | OC(C#CC(=O)O)(C)C | C6H8O3
product | (S)-1-(3-(4-amino-5-((3,5-dimethoxyphenyl)ethynyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)pyrrolidin-1-yl)-4-hydroxy-4-methylpent-2-yn-1-one | NC=1C2=C(N=CN1)N(C=C2C#CC2=CC(=CC(=C2)OC)OC)[C@@H]2CN(CC2)C(C#CC(C)(C)O)=O | C26H27N5O4
